US07192969B2
Synthesis of (1R,4R)-4-((2R,4R)-2-(t-butyl)-5-oxo-4-phenyl-1,3-dioxolan-4-yl)-2-oxocyclopentyl Acetate
To a solution of 32 mg of (2R,5R)-2-(t-butyl)-5-((1R,3R)-3-hydroxy-4-oxocyclopentyl)-5-phenyl-1,3-dioxolan-4-one in 1 ml of pyridine, 0.5 ml of acetic anhydride was added, followed by 1 hour's stirring at room temperature. The reaction liquid was diluted with ethyl acetate, washed successively with water, 1N hydrochloric acid and saturated brine, and dried over anhydrous sodium sulfate. Distilling the solvent off under reduced pressure, the residue obtained was purified on preparative thin layer chromatography (Kieselgel™ 60F254, Art 5744 (Merck), chloroform/acetone=20/1) to provide 27 mg of the title compound as a colorless oily substance.

reactant | (2R,5R)-2-(t-butyl)-5-((1R,3R)-3-hydroxy-4-oxocyclopentyl)-5-phenyl-1,3-dioxolan-4-one | 32 mg | C(C)(C)(C)[C@@H]1O[C@@](C(O1)=O)(C1=CC=CC=C1)[C@@H]1C[C@H](C(C1)=O)O | C18H22O5
reactant | acetic anhydride | 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1R,4R)-4-((2R,4R)-2-(t-butyl)-5-oxo-4-phenyl-1,3-dioxolan-4-yl)-2-oxocyclopentyl Acetate | 27 mg | C(C)(=O)O[C@H]1C(C[C@@H](C1)[C@@]1(O[C@H](OC1=O)C(C)(C)C)C1=CC=CC=C1)=O | C20H24O6
